US07109200B2
Triethylamine (253 mg) was added to a solution of 1-{[4-ethoxycarbonylamino-1-(2-methyl-4-pyridyl)-4-piperidinyl]methyl}-2-piperazinone hydrochloride (258 mg) in dichloromethane (15 ml), 7-bromo-2H-benzopyran-3-sulfonyl chloride (233 mg) was added at 0° C., and the mixture was stirred at room temperature for 1 hour. To the reaction solution was added an aqueous sodium carbonate solution, the mixture was extracted with dichloromethane, dried, concentrated, and purified by column chromatography (dichloromethane:10% aqueous ammonia-containing methanol=20:1) to obtain colorless amorphous 4-(7-bromo-2H-benzopyran-3-sulfonyl)-1-{[4-ethoxycarbonylamino-1-(2-methyl-4-pyridyl)-4-piperidinyl]methyl}-2-piperazinone (169 mg).

reactant | Triethylamine | 253 mg | C(C)N(CC)CC | C6H15N
reactant | 1-{[4-ethoxycarbonylamino-1-(2-methyl-4-pyridyl)-4-piperidinyl]methyl}-2-piperazinone hydrochloride | 258 mg | Cl.C(C)OC(=O)NC1(CCN(CC1)C1=CC(=NC=C1)C)CN1C(CNCC1)=O
reactant | 7-bromo-2H-benzopyran-3-sulfonyl chloride | 233 mg | BrC1=CC2=C(C=C(CO2)S(=O)(=O)Cl)C=C1 | C9H6BrClO3S
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
product | 4-(7-bromo-2H-benzopyran-3-sulfonyl)-1-{[4-ethoxycarbonylamino-1-(2-methyl-4-pyridyl)-4-piperidinyl]methyl}-2-piperazinone | 169 mg | BrC1=CC2=C(C=C(CO2)S(=O)(=O)N2CC(N(CC2)CC2(CCN(CC2)C2=CC(=NC=C2)C)NC(=O)OCC)=O)C=C1 | C28H34BrN5O6S
